US08445499B2
Step 2: tert-butyl 1′-[6-(1H-1,2,4-triazol-1-yl)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate
The tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate (190 mg, 0.50 mmol), 1,2,4-triazole (69 mg, 1.0 mmol), cesium carbonate (488 mg, 1.5 mmol) were added in NMP (5 mL) and heated to 140° C. for 1.5 hours. The reaction crude were cooled down to r.t. and diluted with ethyl acetate (10 mL), washed with water (5 mL, ×1) and brine (5 mL, ×1). The organic phase was dried over magnesium sulfate, filtered and concentrated on rotavapor. The crude mixture was purified by preparative TLC with 50% ethyl acetate:hexane to yield the title compound.

reactant | tert-butyl 1′-(6-chloropyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate | 0.50 mmol, 190 mg | ClC1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H29ClN4O2
reactant | 1,2,4-triazole | 1.0 mmol, 69 mg | N1N=CN=C1 | C2H3N3
reactant | cesium carbonate | 1.5 mmol, 488 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1′-[6-(1H-1,2,4-triazol-1-yl)pyrimidin-4-yl]-4,4′-bipiperidine-1-carboxylate | N1(N=CN=C1)C1=CC(=NC=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H31N7O2
